US07875618B2
3-(1-(3,5-Dimethoxy-2-nitrophenyl)-4-methyl-1H-imidazol-2-yl)-4-methylpyridine
Following the general Suzuki coupling procedure, reaction of 2-bromo-1-(3,5-dimethoxy-2-nitrophenyl)-4-methyl-1H-imidazole (1.1 g, 3.2 mmol), 4-methyl-3-pyridylboronic acid (876 mg, 6.4 mmol), K2CO3 (1.32 g, 9.6 mmol) and Pd(PPh3)4 (186 mg, 0.161 mmol) provided 788 mg (69% yield) of the desired product as an off white powder. EIMS 355.1 [M+H]+.

reactant | 2-bromo-1-(3,5-dimethoxy-2-nitrophenyl)-4-methyl-1H-imidazole | 3.2 mmol, 1.1 g | BrC=1N(C=C(N1)C)C1=C(C(=CC(=C1)OC)OC)[N+](=O)[O-] | C12H12BrN3O4
reactant | 4-methyl-3-pyridylboronic acid | 6.4 mmol, 876 mg | CC1=C(C=NC=C1)B(O)O | C6H8BNO2
reactant | K2CO3 | 9.6 mmol, 1.32 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(PPh3)4 | 0.161 mmol, 186 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(1-(3,5-Dimethoxy-2-nitrophenyl)-4-methyl-1H-imidazol-2-yl)-4-methylpyridine | 788 mg, 69% yield | COC=1C(=C(C=C(C1)OC)N1C(=NC(=C1)C)C=1C=NC=CC1C)[N+](=O)[O-] | C18H18N4O4
